US07834197B2
Preparation of N-methoxymethyl-N-propylpyrrolidinium chloride
A 36.33 g quantity of N-propylpyrrolidine was dissolved in 186 g of dehydrated acetone (up to 0.1% in water content), followed by replacement with nitrogen. To the solution was added dropwise 25.76 g of chloromethyl ethyl ether (reagent, product of Tokyo Kasei Co., Ltd. as purified by distillation) at 5° C. over a period of 1 hour. The mixture was stirred at 5° C. for 5 hours, whereby the reaction was terminated. The reaction mixture was filtered, washed with 100 g of acetone and dried in a vacuum, giving 58.10 g of a white solid product.

reactant | N-propylpyrrolidine | C(CC)N1CCCC1 | C7H15N
reactant | chloromethyl ethyl ether | 25.76 g | C(C)OCCl | C3H7ClO
solvent | acetone | 186 g | CC(=O)C | C3H6O
solvent | water | O | H2O
product | N-methoxymethyl-N-propylpyrrolidinium chloride | 58.10 g | [Cl-].COC[N+]1(CCCC1)CCC | InChI=1S/C9H20NO.ClH/c1-3-6-10(9-11-2)7-4-5-8-10;/h3-9H2,1-2H3;1H/q+1;/p-1
